US04612396
185 g of diethyl sulfate (1.2 mole) are added dropwise to a mixture of 577 g of toluene and 212 g of 2-amino-4-nitro-β-methoxyethoxybenzene (1 mole). The mixture is stirred at 80° C. for 5 hours and then neutralized with 169 g of 14% strength aqueous ammonia. The toluene is removed by azeotropic distillation and the aqueous residue is adjusted to pH 0.4 with 165 g of concentrated hydrochloric acid. 10 g of keiselguhr and 0.5 g of zinc dust are added to the mixture. It is then boiled under reflux for 30 minutes and finally filtered hot. The filtrate is adjusted to pH 2 with 120 ml of concentrated sodium hydroxide solution. The precipitate is filtered off with suction and dried in vacuo. 215 g of 2-ethylamino-4-nitro-β-methoxyethoxybenzene are obtained, which corresponds to a yield of 76% of theory.

reactant | diethyl sulfate | 1.2 mole, 185 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | 2-amino-4-nitro-β-methoxyethoxybenzene | 1 mole, 212 g | NC1=C(C=CC(=C1)[N+](=O)[O-])OCCOC | C9H12N2O4
reactant | ammonia | N | H3N
solvent | toluene | 577 g | C1(=CC=CC=C1)C | C7H8
product | 2-ethylamino-4-nitro-β-methoxyethoxybenzene | 215 g, yield of 76% | C(C)NC1=C(C=CC(=C1)[N+](=O)[O-])OCCOC | C11H16N2O4
